US04416884
8-(4-Methyl-1-piperazinyl)-9-fluoro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid was added to 48% hydrobromic acid and the solvent was removed by distillation under reduced pressure. Recrystallization of the residue from isopropanol-water (2:1 by volume) gave 8-(4-methyl-1-piperazinyl)-9-fluoro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid hydrobromide monohydrate as white rhombic crystals having a melting point of 298° to 299° C. (decomposed).

reactant | 8-(4-Methyl-1-piperazinyl)-9-fluoro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | CN1CCN(CC1)C1=C(C=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O)F | C19H22FN3O3
reactant | hydrobromic acid | Br | BrH
product | 8-(4-methyl-1-piperazinyl)-9-fluoro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid hydrobromide monohydrate | O.Br.CN1CCN(CC1)C1=C(C=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O)F | InChI=1S/C19H22FN3O3.BrH.H2O/c1-11-3-4-12-16-13(18(24)14(19(25)26)10-23(11)16)9-15(20)17(12)22-7-5-21(2)6-8-22;;/h9-11H,3-8H2,1-2H3,(H,25,26);1H;1H2
